### ISSUE TITLE
can't see goal state after case tactic

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#2881]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

In the following example, if you put your cursor on the empty line, indented two spaces (i.e. where the next tactic should be), the goal state shows `no goals` (i.e. the goal state of finished case `zero`). 
It should show the goal state of the remaining goal(s).
```
example (n : Nat) : n = n := by
  induction n
  case zero => rfl
  
--^
```
(note: the same occurs when there is a multi-line tactic block after `case zero`).

### Context

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.5Bsmall.20bug.5D.20can't.20see.20goal.20state.20after.20case.20tactic)

### Versions

Lean 4.2.0

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I also stumbled over this, version `4.6.0-rc1`; here is my duplicate issue description (with additional info about de-indenting and other tactics)

---- 

Consider
```
example (n : Nat) : n = n := by
  induction n
  case zero => rfl
  ‸
```

The natural thing to do next is to move the cursor to the next line, aligned with the `case`, as shown. But then the proof state is
```
Tactic state
No goals
```

If I de-indent once more, to
```
example (n : Nat) : n = n := by
  induction n
  case zero => rfl
 ‸
```
I see what I want to see: The list of still open goals
```
Tactic state
1 goal
n✝: Nat
n_ih✝: n✝ = n✝
⊢ Nat.succ n✝ = Nat.succ n✝
```

But de-indenting further left seems wrong here.

It does not happen with `·` nor `next`; there we get the desired behavior.

Maybe the parser for `case` can be adjusted accordingly.

Odd, the parsers for `next` and `case` look very similar:
```
syntax (name := case) "case " sepBy1(caseArg, " | ") " => " tacticSeq : tactic

macro "next " args:binderIdent* " => " tac:tacticSeq : tactic => `(tactic| case _ $args* => $tac)
```
So not sure why it works for some and not the others.

**Comment by Seasawher** [comment]
`suffices ... by` notation has same issue. (Lean version: v4.8.0-rc1)

```lean
example {a b : Nat} (h : a = b) : b ≤ b + 1 := by
  suffices a ≤ a + 1 by
    /-
    a b : Nat
    h : a = b
    ⊢ a ≤ a + 1
    -/
    sorry

  suffices a ≤ a + 1 from by
    /-
    a b : Nat
    h : a = b
    this : a ≤ a + 1
    ⊢ a ≤ a + 1
    -/
    sorry

  simp [h]
```
